2185-01-12 07:12:00 Physician Resident Progress Note
Chief Complaint: UGIB, hypotension
   24 Hour Events:
 EKG - At [**2185-1-12**] 02:00 AM
   - s/p EGD overnight which showed blood in stomach, varices banded; no
   active bleeding
   - Received 2 units prbcs, 2 units FFP
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Meropenem - [**2185-1-12**] 01:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-12**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 101 (89 - 109) bpm
   BP: 105/55(65) {83/45(55) - 126/64(79)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    177 mL
                                                                  1,972 mL
   PO:
           TF:
   IVF:
   968 mL
   Blood products:
                                                                    177 mL
                                                                  1,004 mL
   Total out:
                                                                      0 mL
                                                                    115 mL
   Urine:
   115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                  1,857 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, + Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (Murmur: Systolic), Regular,systolic murmur Heard best
   at LUSB.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Crackles : lateral lung fields)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: Milldly TTP
   diffusely
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, date, Movement: Purposeful,
   Tone: Normal, No asterixis
   Labs / Radiology
   154 K/uL
   10.0 g/dL
   131 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.3 mEq/L
   43 mg/dL
   100 mEq/L
   128 mEq/L
   27.4 %
   17.6 K/uL
        [image002.jpg]
                            [**2185-1-12**]  12:02 AM
                            [**2185-1-12**]  03:35 AM
   WBC
   22.7
   17.6
   Hct
   30.2
   27.4
   Plt
   196
   154
   Cr
   1.1
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   138
   131
   Other labs: PT / PTT / INR:24.5/56.3/2.4, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:32/39, Alk Phos / T Bili:93/7.4,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:1.8 mmol/L, Albumin:3.8 g/dL, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices presenting with melanic stools and hct drop from esophageal
   variceal bleed s/p banding on [**1-3**] who now is transferred back to the
   ICU in setting of hematemesis.
   .
   # GI bleeding: EGD performed on initial transfer to [**Hospital1 54**] on [**1-3**]
   which showed esophageal varices with cherry red spots (stigmata of
   recent bleeding) over varices. Two varices were banded during that
   initial EGD.  Now s/p repeat EGD upon tx back to ICU with blood seen in
   stomach, but no additional active bleeding noted; varices banded
   again.  Pre bleed, hct was 28.8 and is 27.4 this morning after 2 units
   prbs
   - s/p 2 units FFP for INR 2.3 and 2 units prbcs
   - give additional unit prbcs now
   - repeating hct now
   - Octreotide bolus with 100mcg now then octreotide gtt
   - Protonix gtt
   - Sucralfate 1 gm PO QID for 14 days
   - Has been off Nadolol, diuretics in setting of BPs high 80s-90s
   - 4 20g pivs
   - Already being treated for SBP so no need for proph
   .
   # Hypotension:  It appears that SBPs have been running consistently
   80s-90s while in house and this appears to be his baseline when
   reviewing old OMR notes.  Transiently dipped to 70s on the floor in the
   setting of hemoptysis and, thus, likely represents hypotension in the
   setting of active bleeding.  Of note, however, he has had persistent
   leukocytosis and is being treated with broad spectrum abx for SBP so
   infection is possible contributor.  Lactate elevated to 3.5 on
   presentation to the ICU and ? in setting of hypoperfusion d/t
   underlying infection (lactate previously normal even in the setting of
   his liver disease); has since normalized.  Currently on presentation to
   the ICU, SBPs are stable in the 80s and he is not tachycardic.  No EKG
   changes and CEs negative so as not to suggest underlying cardiogenic
   etiology.
   - Management of UGIB as above
   - Transfusing now
   - Treating underlying infection while awaiting final cx data; on
   meropenem, vancomycin, fluconazole
   - f/u outstanding culture data
   - sending UA/cx, blood cultures, repeat stool
   - Trend lactate
   .
   # Peritonitis: Diagnosed [**2185-1-5**], patient was on Cipro ppx as
   outpatient and recently increased dose due to recent bleed. Placed on
   Aztreonam [**2176**] mg IV Q8H 5 days (Day 1 [**2185-1-5**] - [**2185-1-10**]).  WBC count
   kept rising despite aztreonam/fluconazole, leading to repeat tap [**1-10**]-
   SBP w GNR. Started on Vanc/[**Last Name (un) **] (aztreonam d/c'd) [**1-11**].  Given appears
   polymicrobial ? truly SBP vs. secondary seeding.  Has diffuse abdominal
   discomfort, but not focal pain nor rebound/guarding to suggest acute
   abdominal process.  Cholangiogram without biliary obstruction/leak
   (perc tube pulled [**1-10**]).  Does have left inguinal hernia, but without
   evidence of strangulation/incarceration.   Given concern for possible
   secondary seeding from underlying intraabdominal process will obtain
   RUQ U/S to assess for e/o obstructive/ascending cholangitis (t.bili up
   slightly from yesterday, AP stable).  Will also check CT abd/pelvis
   (without IV contrast, with oral contrast given UOP has dropped off and
   want to see where renal function will settle out).
   - Cont Vanc/[**Last Name (un) **]/fluconazole (fluc started [**1-5**], vanco/[**Last Name (un) 430**] started
   [**1-11**])
   - Monitor LFTs to assess for rising t.bili and concern for possible
   cholangitis given h/o recurrent episodes requiring perc drain placement
   - Repeat tap after 5d to confirm SBP eradication.
   - Received day 3 albumin (1g/kg)
   - Plan for bactrim for ppx following tx.
   - Monitor abdominal exam
   - Pursue abdominal imaging/[**Doctor First Name 458**] consult if abdominal exam at all
   concerning
   .
   # Metabolic acidosis:  Non anion gap.  Lactate was elevated on
   transfer, but normalized this am and, again, non AG met acidosis.  He
   is on standing lactulose and suspect this is in the setting of ongoing
   diarrhea.  Patient did not have h/o encephalopathy prior to last
   discharge (discharged [**12-31**]) at which time he had some mental status
   changes.  Although during that admission, asterixis was never noted,
   there was concern for hepatic encephalopathy so he was started on
   lactulose with perhaps some improvement in MS per d/c summary.  In
   review of his labs, it appears that thereafter his bicarb fell which
   further suggests this is in the setting of diarrhea.  He is again
   without asterixis and is currently alert and oriented x3 so ?
   previously lethargic in setting of infection, meds.
   - continue to monitor chem7/bicarb
   - hold lactulose if continues to fall with close monitoring of mental
   status
   .
   # Leukocytosis: Persistently elevated to nearly 20K range.  Only clear
   source at this point is peritoneal fluid and as above, ? SBP vs.
   secondary seeding although no clear acute intraabdominal process at
   this time. CXR [**1-7**] showed low lung volume and probable small pleural
   effusions, not repeated since and he is without pulmonary symptoms to
   suggest as source.  Did hear soft systolic murmur on exam which is
   noted in old OMR notes so not new and TTE without e/o veg.  Blood and
   urine cultures have shown no growth.  He does have diarrhea, but is on
   lactulose; c. diff negative x1 on [**1-9**].
   - Treating peritonitis as above
   - Awaiting blood, urine cultures, c. diff
   - continue antibiotic coverage as above
   .
   # PSC with cirrhosis: On liver transplant list.   Complicated by
   ascites, portal gastropathy, and SBP. No clear history of
   encephalopathy as discussed above.
   - PTC drain removed [**1-10**]
   - Continue to trend LFTs - check for complications of PTC removal.
   - ursodiol [**Hospital1 **]
   - lactulose 30 mg daily  (may hold if met acidosis persists/worsens)
   - hold spironolactone/lasix in setting of hyponatremia/low BP
   .
   # Strictures: Pull back cholangiography on [**1-10**] demonstrated no
   obstruction. PTC drain removed by IR [**2185-1-10**].
   - Follow LFTs
   .
   # Esophagitis: Biopsy from EGD [**2184-12-28**] biopsy grew [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 1656**].
   Unclear etiology. Fluconazole 200 mg qd for 14 days (Day 1 [**2185-1-5**]).
   If symptoms reoccur treat with Vori.
   - Negative fungal cultures
   .
   # Hyponatremia: Per floor team, improved with holding diuretics and
   fluid challenge therefore thought to be most likely hypovolemic
   hyponatremia.  Again improved slightly after receiving NS.
   - f/u urine lytes
   .
   # Ulcerative colitis: Continue outpatient Mesalamine.
   .
   # CAD s/p CABG: Continue Statin. Holding ASA and BB in setting of
   bleed.
   .
   # Hyperlipidemia:  Continue outpatient dose statin.
   .
   # Depression/ADHD: Continue sertraline. Hold Ritalin as needed.
   .
   ICU Care
   Nutrition: NPO for now except meds and may advance to clears in pm if
   no further bleeding.  Calorie counts showed inadequate caloric intake
   and plan was for post pyloric dobhoff to be placed [**1-12**].
   - will need post-pyloric dobhoff once GIB stabilizes
   Lines:
   20 Gauge - [**2185-1-11**] 11:37 PM
   18 Gauge - [**2185-1-11**] 11:38 PM
   Prophylaxis:
   DVT:   Pneumoboots.
   Stress ulcer:   On IV PPI currently.
   Communication:  With patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (3) **]
   [**Name2 (NI) 66**] status:  FULL, confirmed with patient.
   Disposition:  ICU level of care pending hct and HD stability.

2185-01-12 08:26:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 y/o man with PMH PSC c/b chirossis s/p recent MICU stay for variceal
   bleed. Was banded during that stay. Of note on borad spectrum abx for
   peritonitis and possible cholangitis during that stay. Represented for
   GIB bleed, now s/p EGD with additional banding. Now on octreotide
   24 Hour Events:
 EKG - At [**2185-1-12**] 02:00 AM
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Meropenem - [**2185-1-12**] 01:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-12**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 102 (89 - 109) bpm
   BP: 101/61(67) {83/45(55) - 126/64(79)} mmHg
   RR: 23 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    177 mL
                                                                  2,336 mL
   PO:
           TF:
   IVF:
   1,075 mL
   Blood products:
                                                                    177 mL
                                                                  1,261 mL
   Total out:
                                                                      0 mL
                                                                    115 mL
   Urine:
   115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                  2,221 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Distended, Tender: RLQ
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   154 K/uL
   131 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.3 mEq/L
   43 mg/dL
   100 mEq/L
   128 mEq/L
   27.4 %
   17.6 K/uL
        [image002.jpg]
                            [**2185-1-12**]  12:02 AM
                            [**2185-1-12**]  03:35 AM
   WBC
   22.7
   17.6
   Hct
   30.2
   27.4
   Plt
   196
   154
   Cr
   1.1
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   138
   131
   Other labs: PT / PTT / INR:24.5/56.3/2.4, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:32/39, Alk Phos / T Bili:93/7.4,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:1.8 mmol/L, Albumin:3.8 g/dL, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Polymicrobial cultures x 3 on recent taps
   - no clearing.
   Assessment and Plan
   71 y/o man with PSC c/b cirrhosis p/w GIB now s/p variceal banding.
   Following Hct. Also with declining urine output. Will transfuse 2 U
   PRBC this am. Repeated paracentesis with + culture and even
   polymicrobial raising concern for secondary peritonitis. Tender on exam
   this morning. Will check abdominal CT. Currently covered with
   [**Last Name (un) 430**]/vanc/fluc. Hemodynamics have stabilized. Reportedly undergoing
   transplant evaluation, will discuss with GI today.
   Acute blood loss anemia
 s/p variceal banding, octreotide drip,
   protonix drip
   Peritonitis
 on [**Last Name (un) 430**]/vanc/fluc pending final cx data
   Hypotension
 may in part be due to infection and bleed, but SBPs in
   90s appears to be baseline.
   Leukocytosis
 slightly improved, cultures including c diff
   pendingFurther plans as per resident note.
   Hyponatremia
 diuretics on hold
   Rest of plan as per Dr. [**First Name (STitle) 6908**]
s note.
   ICU Care
   Nutrition:
   Comments: NPO for now in setting of GI bleed
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-12**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-01-13 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2185-01-13 09:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events. No further bleeding.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Meropenem - [**2185-1-13**] 06:00 AM
   Vancomycin - [**2185-1-13**] 07:59 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Flowsheet Data as of  [**2185-1-13**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.6
   HR: 93 (93 - 106) bpm
   BP: 109/79(85) {67/48(51) - 113/79(85)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,301 mL
                                                                    845 mL
   PO:
                                                                     60 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  2,630 mL
                                                                    665 mL
   Blood products:
                                                                  1,611 mL
   Total out:
                                                                    605 mL
                                                                    510 mL
   Urine:
                                                                    605 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,696 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   11.4 g/dL
   111 mg/dL
   0.7 mg/dL
   17 mEq/L
   3.9 mEq/L
   40 mg/dL
   104 mEq/L
   130 mEq/L
   30.8 %
   16.2 K/uL
        [image002.jpg]
                            [**2185-1-12**]  12:02 AM
                            [**2185-1-12**]  03:35 AM
                            [**2185-1-12**]  08:30 AM
                            [**2185-1-12**]  01:39 PM
                            [**2185-1-12**]  04:39 PM
                            [**2185-1-12**]  04:41 PM
                            [**2185-1-12**]  09:37 PM
                            [**2185-1-13**]  04:01 AM
   WBC
   22.7
   17.6
   16.2
   Hct
   30.2
   27.4
   26.3
   30.1
   31.6
   30.8
   30.8
   Plt
   196
   154
   134
   Cr
   1.1
   1.1
   0.9
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   138
   131
   132
   111
   Other labs: PT / PTT / INR:22.7/46.2/2.2, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:33/42, Alk Phos / T Bili:101/10.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:166 IU/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices presenting with melanic stools and hct drop from esophageal
   variceal bleed s/p banding on [**1-3**] who now is transferred back to the
   ICU in setting of hematemesis.
   .
   # GI bleeding: EGD performed on initial transfer to [**Hospital1 54**] on [**1-3**]
   which showed esophageal varices with cherry red spots (stigmata of
   recent bleeding) over varices. Two varices were banded during that
   initial EGD.  Repeat EGD in the setting of hemoptysis [**1-11**] AM, varices
   w/stigmata of bleeding banded.
   - Received 2 units PRBCs
   - s/p 2 units FFP for INR 2.3 and 2 units prbcs
   - HCT stable overnight w/o new bleeding episodes
   - Octreotide bolus with 100mcg now then octreotide gtt
   - Protonix gtt
   - Sucralfate 1 gm PO QID for 14 days
   - Has been off Nadolol, diuretics in setting of BPs high 80s-90s
   - 4 20g pivs
   - Already being treated for SBP so no need for proph
   .
   # Hypotension:  It appears that SBPs have been running consistently
   80s-90s while in house and this appears to be his baseline when
   reviewing old OMR notes.  Transiently dipped to 70s on the floor in the
   setting of hemoptysis and, thus, likely represents hypotension in the
   setting of active bleeding.  Of note, however, he has had persistent
   leukocytosis and is being treated with broad spectrum abx for SBP so
   infection is possible contributor.  Lactate elevated to 3.5 on
   presentation to the ICU and ? in setting of hypoperfusion d/t
   underlying infection (lactate previously normal even in the setting of
   his liver disease); has since normalized.  Currently on presentation to
   the ICU, SBPs are stable in the 80s and he is not tachycardic.  No EKG
   changes and CEs negative so as not to suggest underlying cardiogenic
   etiology.
   - Management of UGIB as above
   - Transfusing now
   - Treating underlying infection while awaiting final cx data; on
   meropenem, vancomycin, fluconazole
   - f/u outstanding culture data
   - sending UA/cx, blood cultures, repeat stool
   - Trend lactate
   .
   # Peritonitis: Diagnosed [**2185-1-5**], patient was on Cipro ppx as
   outpatient and recently increased dose due to recent bleed. Placed on
   Aztreonam [**2176**] mg IV Q8H 5 days (Day 1 [**2185-1-5**] - [**2185-1-10**]).  WBC count
   kept rising despite aztreonam/fluconazole, leading to repeat tap [**1-10**]-
   SBP w GNR. Started on Vanc/[**Last Name (un) **] (aztreonam d/c'd) [**1-11**].  Given appears
   polymicrobial ? truly SBP vs. secondary seeding.  Has diffuse abdominal
   discomfort, but not focal pain nor rebound/guarding to suggest acute
   abdominal process.  Cholangiogram without biliary obstruction/leak
   (perc tube pulled [**1-10**]).  Does have left inguinal hernia, but without
   evidence of strangulation/incarceration.   Given concern for possible
   secondary seeding from underlying intraabdominal process will obtain
   RUQ U/S to assess for e/o obstructive/ascending cholangitis (t.bili up
   slightly from yesterday, AP stable).  Will also check CT abd/pelvis
   (without IV contrast, with oral contrast given UOP has dropped off and
   want to see where renal function will settle out).
   - Cont Vanc/[**Last Name (un) **]/fluconazole (fluc started [**1-5**], vanco/[**Last Name (un) 430**] started
   [**1-11**])
   - Monitor LFTs to assess for rising t.bili and concern for possible
   cholangitis given h/o recurrent episodes requiring perc drain placement
   - Repeat tap after 5d to confirm SBP eradication.
   - Received day 3 albumin (1g/kg)
   - Plan for bactrim for ppx following tx.
   - Monitor abdominal exam
   - Pursue abdominal imaging/[**Doctor First Name 458**] consult if abdominal exam at all
   concerning
   .
   # Metabolic acidosis:  Non anion gap.  Lactate was elevated on
   transfer, but normalized this am and, again, non AG met acidosis.  He
   is on standing lactulose and suspect this is in the setting of ongoing
   diarrhea.  Patient did not have h/o encephalopathy prior to last
   discharge (discharged [**12-31**]) at which time he had some mental status
   changes.  Although during that admission, asterixis was never noted,
   there was concern for hepatic encephalopathy so he was started on
   lactulose with perhaps some improvement in MS per d/c summary.  In
   review of his labs, it appears that thereafter his bicarb fell which
   further suggests this is in the setting of diarrhea.  He is again
   without asterixis and is currently alert and oriented x3 so ?
   previously lethargic in setting of infection, meds.
   - continue to monitor chem7/bicarb
   - hold lactulose if continues to fall with close monitoring of mental
   status
   .
   # Leukocytosis: Persistently elevated to nearly 20K range.  Only clear
   source at this point is peritoneal fluid and as above, ? SBP vs.
   secondary seeding although no clear acute intraabdominal process at
   this time. CXR [**1-7**] showed low lung volume and probable small pleural
   effusions, not repeated since and he is without pulmonary symptoms to
   suggest as source.  Did hear soft systolic murmur on exam which is
   noted in old OMR notes so not new and TTE without e/o veg.  Blood and
   urine cultures have shown no growth.  He does have diarrhea, but is on
   lactulose; c. diff negative x1 on [**1-9**].
   - Treating peritonitis as above
   - Awaiting blood, urine cultures, c. diff
   - continue antibiotic coverage as above
   .
   # PSC with cirrhosis: On liver transplant list.   Complicated by
   ascites, portal gastropathy, and SBP. No clear history of
   encephalopathy as discussed above.
   - PTC drain removed [**1-10**]
   - Continue to trend LFTs - check for complications of PTC removal.
   - ursodiol [**Hospital1 **]
   - lactulose 30 mg daily  (may hold if met acidosis persists/worsens)
   - hold spironolactone/lasix in setting of hyponatremia/low BP
   # Strictures: Pull back cholangiography on [**1-10**] demonstrated no
   obstruction. PTC drain removed by IR [**2185-1-10**].
   - Follow LFTs
   # Esophagitis: Biopsy from EGD [**2184-12-28**] biopsy grew [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 1656**].
   Unclear etiology. Fluconazole 200 mg qd for 14 days (Day 1 [**2185-1-5**]).
   If symptoms reoccur treat with Vori.
   - Negative fungal cultures
   # Hyponatremia: Improved slightly after receiving NS.
   - f/u urine lytes
   # Ulcerative colitis: Continue outpatient Mesalamine.
   # CAD s/p CABG: Continue Statin. Holding ASA and BB in setting of
   bleed.
   -Continue outpatient dose statin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-12**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-01-14 07:41:00 Physician Resident Progress Note
Chief Complaint:
   Feeling better today.
   24 Hour Events:
   No major events, hct remains stable (last transfusion on [**2185-1-12**])
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Fluconazole - [**2185-1-13**] 01:00 PM
   Vancomycin - [**2185-1-13**] 08:00 PM
   Meropenem - [**2185-1-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-1-13**] 11:00 AM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-14**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 76 (63 - 95) bpm
   BP: 86/50(56) {83/46(36) - 111/79(85)} mmHg
   RR: 20 (18 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,712 mL
                                                                    297 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,352 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    933 mL
                                                                    170 mL
   Urine:
                                                                    933 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    779 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///17/
   Physical Examination
   Gen:  cachectic, chronically ill appearing. NAD.
   HEENT:  scleral icterus, PERRL.
   CV:  RRR, no mrg.
   Resp:  Unable to sit forward d/t hernia pain. Crackles b/l lateral lung
   fields.
   Abd:  Distended, +BS, mildly TTP diffusely.  No rebound/guarding.
   Ext:  2+ edema b/l.
   Labs / Radiology
   158 K/uL
   12.2 g/dL
   98 mg/dL
   0.8 mg/dL
   17 mEq/L
   4.0 mEq/L
   43 mg/dL
   103 mEq/L
   129 mEq/L
   34.0 %
   17.9 K/uL
        [image002.jpg]
                            [**2185-1-12**]  12:02 AM
                            [**2185-1-12**]  03:35 AM
                            [**2185-1-12**]  08:30 AM
                            [**2185-1-12**]  01:39 PM
                            [**2185-1-12**]  04:39 PM
                            [**2185-1-12**]  04:41 PM
                            [**2185-1-12**]  09:37 PM
                            [**2185-1-13**]  04:01 AM
                            [**2185-1-13**]  05:17 PM
                            [**2185-1-14**]  02:31 AM
   WBC
   22.7
   17.6
   16.2
   17.9
   Hct
   30.2
   27.4
   26.3
   30.1
   31.6
   30.8
   30.8
   33.2
   34.0
   Plt
   196
   154
   134
   158
   Cr
   1.1
   1.1
   0.9
   0.7
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   138
   131
   132
   111
   98
   Other labs: PT / PTT / INR:22.0/45.2/2.1, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:35/50, Alk Phos / T Bili:120/9.5,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:1.8 mmol/L, Albumin:3.8 g/dL, LDH:207 IU/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices presenting with melanic stools and hct drop from esophageal
   variceal bleed s/p banding on [**1-3**] who now is transferred back to the
   ICU in setting of hematemesis.
   .
   # GI bleeding: EGD performed on initial transfer to [**Hospital1 54**] on [**1-3**]
   which showed esophageal varices with cherry red spots (stigmata of
   recent bleeding) over varices. Two varices were banded during that
   initial EGD.  Now s/p repeat EGD upon tx back to ICU with blood seen in
   stomach, but no additional active bleeding noted; varices banded
   again.  Pre bleed, hct was 28.8 and is 27.4 this morning after 2 units
   prbs
   - s/p 2 units FFP for INR 2.3 and 2 units prbcs
   - give additional unit prbcs now
   - repeating hct now
   - Octreotide bolus with 100mcg now then octreotide gtt
   - Protonix gtt
   - Sucralfate 1 gm PO QID for 14 days
   - Has been off Nadolol, diuretics in setting of BPs high 80s-90s
   - 4 20g pivs
   - Already being treated for SBP so no need for proph
   .
   # Hypotension:  It appears that SBPs have been running consistently
   80s-90s while in house and this appears to be his baseline when
   reviewing old OMR notes.  Transiently dipped to 70s on the floor in the
   setting of hemoptysis and, thus, likely represents hypotension in the
   setting of active bleeding.  Of note, however, he has had persistent
   leukocytosis and is being treated with broad spectrum abx for SBP so
   infection is possible contributor.  Lactate elevated to 3.5 on
   presentation to the ICU and ? in setting of hypoperfusion d/t
   underlying infection (lactate previously normal even in the setting of
   his liver disease); has since normalized.  Currently on presentation to
   the ICU, SBPs are stable in the 80s and he is not tachycardic.  No EKG
   changes and CEs negative so as not to suggest underlying cardiogenic
   etiology.
   - Management of UGIB as above
   - Transfusing now
   - Treating underlying infection while awaiting final cx data; on
   meropenem, vancomycin, fluconazole
   - f/u outstanding culture data
   - sending UA/cx, blood cultures, repeat stool
   - Trend lactate
   .
   # Peritonitis: Diagnosed [**2185-1-5**], patient was on Cipro ppx as
   outpatient and recently increased dose due to recent bleed. Placed on
   Aztreonam [**2176**] mg IV Q8H 5 days (Day 1 [**2185-1-5**] - [**2185-1-10**]).  WBC count
   kept rising despite aztreonam/fluconazole, leading to repeat tap [**1-10**]-
   SBP w GNR. Started on Vanc/[**Last Name (un) **] (aztreonam d/c'd) [**1-11**].  Given appears
   polymicrobial ? truly SBP vs. secondary seeding.  Has diffuse abdominal
   discomfort, but not focal pain nor rebound/guarding to suggest acute
   abdominal process.  Cholangiogram without biliary obstruction/leak
   (perc tube pulled [**1-10**]).  Does have left inguinal hernia, but without
   evidence of strangulation/incarceration.   Given concern for possible
   secondary seeding from underlying intraabdominal process will obtain
   RUQ U/S to assess for e/o obstructive/ascending cholangitis (t.bili up
   slightly from yesterday, AP stable).  Will also check CT abd/pelvis
   (without IV contrast, with oral contrast given UOP has dropped off and
   want to see where renal function will settle out).
   - Cont Vanc/[**Last Name (un) **]/fluconazole (fluc started [**1-5**], vanco/[**Last Name (un) 430**] started
   [**1-11**])
   - Monitor LFTs to assess for rising t.bili and concern for possible
   cholangitis given h/o recurrent episodes requiring perc drain placement
   - Repeat tap after 5d to confirm SBP eradication.
   - Received day 3 albumin (1g/kg)
   - Plan for bactrim for ppx following tx.
   - Monitor abdominal exam
   - Pursue abdominal imaging/[**Doctor First Name 458**] consult if abdominal exam at all
   concerning
   .
   # Metabolic acidosis:  Non anion gap.  Lactate was elevated on
   transfer, but normalized this am and, again, non AG met acidosis.  He
   is on standing lactulose and suspect this is in the setting of ongoing
   diarrhea.  Patient did not have h/o encephalopathy prior to last
   discharge (discharged [**12-31**]) at which time he had some mental status
   changes.  Although during that admission, asterixis was never noted,
   there was concern for hepatic encephalopathy so he was started on
   lactulose with perhaps some improvement in MS per d/c summary.  In
   review of his labs, it appears that thereafter his bicarb fell which
   further suggests this is in the setting of diarrhea.  He is again
   without asterixis and is currently alert and oriented x3 so ?
   previously lethargic in setting of infection, meds.
   - continue to monitor chem7/bicarb
   - hold lactulose if continues to fall with close monitoring of mental
   status
   .
   # Leukocytosis: Persistently elevated to nearly 20K range.  Only clear
   source at this point is peritoneal fluid and as above, ? SBP vs.
   secondary seeding although no clear acute intraabdominal process at
   this time. CXR [**1-7**] showed low lung volume and probable small pleural
   effusions, not repeated since and he is without pulmonary symptoms to
   suggest as source.  Did hear soft systolic murmur on exam which is
   noted in old OMR notes so not new and TTE without e/o veg.  Blood and
   urine cultures have shown no growth.  He does have diarrhea, but is on
   lactulose; c. diff negative x1 on [**1-9**].
   - Treating peritonitis as above
   - Awaiting blood, urine cultures, c. diff
   - continue antibiotic coverage as above
   .
   # PSC with cirrhosis: On liver transplant list.   Complicated by
   ascites, portal gastropathy, and SBP. No clear history of
   encephalopathy as discussed above.
   - PTC drain removed [**1-10**]
   - Continue to trend LFTs - check for complications of PTC removal.
   - ursodiol [**Hospital1 **]
   - lactulose 30 mg daily  (may hold if met acidosis persists/worsens)
   - hold spironolactone/lasix in setting of hyponatremia/low BP
   .
   # Strictures: Pull back cholangiography on [**1-10**] demonstrated no
   obstruction. PTC drain removed by IR [**2185-1-10**].
   - Follow LFTs
   .
   # Esophagitis: Biopsy from EGD [**2184-12-28**] biopsy grew [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 1656**].
   Unclear etiology. Fluconazole 200 mg qd for 14 days (Day 1 [**2185-1-5**]).
   If symptoms reoccur treat with Vori.
   - Negative fungal cultures
   .
   # Hyponatremia: Per floor team, improved with holding diuretics and
   fluid challenge therefore thought to be most likely hypovolemic
   hyponatremia.  Again improved slightly after receiving NS.
   - f/u urine lytes
   .
   # Ulcerative colitis: Continue outpatient Mesalamine.
   .
   # CAD s/p CABG: Continue Statin. Holding ASA and BB in setting of
   bleed.
   .
   # Hyperlipidemia:  Continue outpatient dose statin.
   .
   # Depression/ADHD: Continue sertraline. Hold Ritalin as needed.

2185-01-16 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2185-1-15**] 04:23 PM
   tapped for 1500cc clear yellow; Positive for SBP
   HCT stable, no further episdoes hematemesis
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Fluconazole - [**2185-1-13**] 01:00 PM
   Vancomycin - [**2185-1-15**] 09:53 PM
   Meropenem - [**2185-1-16**] 01:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-1-15**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-16**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 67 (64 - 73) bpm
   BP: 92/52(62) {75/43(50) - 96/64(71)} mmHg
   RR: 30 (27 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 89.7 kg
   Height: 26 Inch
             Total In:
                                                                  2,112 mL
                                                                    208 mL
   PO:
             TF:
   IVF:
                                                                  1,478 mL
                                                                    208 mL
   Blood products:
                                                                    634 mL
   Total out:
                                                                  1,860 mL
                                                                    325 mL
   Urine:
                                                                    360 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
                                                                  1,500 mL
   Balance:
                                                                    252 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL, icteric sclera
   Head, Ears, Nose, Throat: Normocephalic, temporal wasting
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, +ascites
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, ( - )asterixis
   Labs / Radiology
   108 K/uL
   11.5 g/dL
   118 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.0 mEq/L
   40 mg/dL
   106 mEq/L
   132 mEq/L
   32.0 %
   15.5 K/uL
        [image002.jpg]
                            [**2185-1-12**]  01:39 PM
                            [**2185-1-12**]  04:39 PM
                            [**2185-1-12**]  04:41 PM
                            [**2185-1-12**]  09:37 PM
                            [**2185-1-13**]  04:01 AM
                            [**2185-1-13**]  05:17 PM
                            [**2185-1-14**]  02:31 AM
                            [**2185-1-15**]  04:31 PM
                            [**2185-1-15**]  11:14 PM
                            [**2185-1-16**]  03:45 AM
   WBC
   16.2
   17.9
   17.6
   15.9
   15.5
   Hct
   30.1
   31.6
   30.8
   30.8
   33.2
   34.0
   32.0
   28.7
   32.0
   Plt
   134
   158
   124
   108
   108
   Cr
   0.9
   0.7
   0.8
   0.8
   0.7
   Glucose
   132
   111
   98
   112
   118
   Other labs: PT / PTT / INR:18.1/43.9/1.7, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:30/45, Alk Phos / T Bili:145/7.4,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:171 IU/L, Ca++:8.4
   mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis who was admitted with
   esophageal variceal bleed, and now w/ recurrent bleed as well as ESBL
   E. coli SBP.
   .
   #  Hematemasis.  Patient initially admitted for esophageal variceal
   bleed s/p banding on [**1-3**].  He had a repeat bleed on [**2185-1-11**]
   requiring repeat banding.  He has received a total of 5 units of PRBCs
   during his hospital stay.  Today with small amount of hematemesis and
   transient hypotension.  Given recent variceal bleed, concern for
   variceal bleed, though also may be related to bleeding from recent
   esophageal biopsy.
   - q 6 hour Hcts
   - PIV x 2
   - type and cross 3 units (type and screen expires [**2185-1-17**])
   - octreotide drip
   - GI aware; do not want to scope at present, but will scope if unstable
   or has melena
   - maintain SBP >85
   - IV PPI [**Hospital1 **]
   - Sucralfate 1 gm PO QID for 14 days (Day 1, [**2185-1-12**])
   - s/p FFP x 2 units today
   .
   #  Hypotension: SBPs have been running consistently 80s-90s during this
   hospital stay w intermittant 70s. Triggered [**1-15**] for BP 74/46 -> alb
   25g, 500cc NS -> BPs 80s, 90s. Pt does have known infection (SBP &
   esophagitis), making sepsis possible, though lower suspicion given
   overall clinical picture. He has had no EKG changes or CEs negative to
   suggest underlying cardiogenic etiology.  TSH, cortisol wnl.
   - f/u blood, urine, peritoneal cultures
   - Management of UGIB as above
   - hold nadolol
   - Treating underlying infection w/ meropenem, vancomycin, fluconazole
   .
   # Peritonitis: Diagnosed [**2185-1-5**], patient was on Cipro ppx as
   outpatient and recently increased dose due to recent bleed. Initially
   tx'd w/ Aztreonam [**2176**] mg IV Q8H 5 days (Day 1 [**2185-1-5**] - [**2185-1-10**])
   given PCN allergy. Repeat tap on [**2185-1-10**] done b/c of persistent
   leukocytosis showed SBP, again. Ascitic cx growing ESBL E.Coli
   (sensitive to Meropenem, Zosyn, Tobramycin).   Repeat tap today shows
   improvement of SBP with falling WBC.
   - Cont Vanc/[**Last Name (un) **]/fluconazole (fluc started [**1-5**] for esophagitis,
   vanco/[**Last Name (un) 430**] started [**1-11**]) x5d
   - Repeat tap ([**1-15**]) to confirm SBP eradication - Bactrim if neg for
   ppx.
   - Monitor abdominal exam
   - Pursue abdominal imaging/IR consult if abdominal exam at all
   concerning
   .
   # Leukocytosis: Persistently elevated during this hosp stay. Likely [**2-21**]
   SBP & stress of bleed. CXR clear on [**1-5**]. RUQ U/S w/o acute findings
   on [**2185-1-12**]. C. diff negative x1 on [**1-9**].   WBC trending down on
   antibiotics and improvement of ascetic wbc suggests appropropriate
   antibiotics.
   - Treating peritonitis as above
   - F/u blood, urine cultures
   - continue antibiotic coverage as above
   .
   # PSC with cirrhosis: On liver transplant list. Complicated by ascites,
   portal gastropathy, and SBP. No clear history of encephalopathy.
   - ursodiol [**Hospital1 **]
   - lactulose 30 mg daily (may hold if met acidosis persists/worsens)
   - hold spironolactone/lasix in setting of hyponatremia/low BP
   .
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing through [**1-15**].
   - Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   .
   # Esophagitis: Biopsy from EGD [**2184-12-28**] biopsy grew [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 1656**].
   Unclear etiology. Fluconazole 200 mg qd for 14 days (Day 1 [**2185-1-5**]).
   If symptoms reoccur treat with Vori.
   - Negative fungal cultures
   - monitor for odynophagia
   .
   # Hyponatremia: stable at 129 [**1-15**]. Was thought to be primarily
   hypovolemic hyponatremia in ICU. Diuretics on hold.
   - monitor, if worsens resend urine lytes
   .
   # Ulcerative colitis: Continue outpatient Mesalamine.
   .
   # CAD s/p CABG: Continue Statin. Holding ASA and BB in setting of
   bleed.
   .
   # Hyperlipidemia: Continue outpatient dose statin.
   .
   # Depression/ADHD: Continue sertraline. Hold Ritalin as needed.
   .
   # Low 02 Sats: 02 sats in low 90s in ICU on RA. CXR w/ small pl
   effusion. Con't to monitor. Repeat CXR if worsens.
   .
   # Hernia: Inguinal hernia, causing significant discomfort. Has been
   eval'd by surgery in past. No e/o incarceration on exam. Reportedly has
   been eval'd by surgery in past, w/ decision to hold on surgery.
   .
   # Depression/ADHD: Pt not depressed at present. Con't sertraline. Hold
   Ritalin as needed.
   .
   # FEN: Very poor PO intake. Calorie count shows <500cal/day.
   Nutritionist following.
   - Continue to encourage po intake
   - Changing supplements to Ensure Plus TID to increase kcals/prot
   - Place dauboff [**1-15**] -> start tube feeds.
   - When more stable, post-pyloric feeding tube. TF goal per
   nutritionist: FS Nutren 2.0 @ 40cc/hr to provide 1920kcals and 77g
   prot/day meeting 100% est needs.
   .
   # PPx: pneumoboots, [**Hospital1 **] ppi.
   .
   # ACcess: PIVs
   .
   # CODE: full, confirmed with patient
   .
   # COMM: with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   .
   # DISP: ICU care for now
 .H/O HERNIA, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-15**] 03:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: